US06815528B2
1-(4-Methoxybenzoyl)-2-trifluoroacetylhydrazine:
Synthesis and isolation were same as I-benzoyl-2-trifluoroacetylhydrazine, using 1.8 g (10.8 mmol) of 4-methoxybenzoylhydrazine and 2.0 g (9.5 mmol) of (CF3CO)2O. Yield was 2.4 g (85%). MS (EI, m/e) calcd for C10H9F3N2O3 262, found 262 (M+, 8.0); mp 147-148° C.

reactant | 4-methoxybenzoylhydrazine | 10.8 mmol, 1.8 g | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
reactant | (CF3CO)2O | 9.5 mmol, 2.0 g | O(C(=O)C(F)(F)F)C(=O)C(F)(F)F | C4F6O3
product | 1-(4-Methoxybenzoyl)-2-trifluoroacetylhydrazine | COC1=CC=C(C(=O)NNC(C(F)(F)F)=O)C=C1 | C10H9F3N2O3
